US05271867
In a reactor were placed 141 g of 3-fluoro-4-octyloxybiphenyl and 400 ml of methylene chloride, to which was gradually added 94 g of anhydrous aluminum chloride at 0° C. or less under stirring and then was added dropwise 56 g of acetylchloride. After completion of dropwise addition, the mixture was stirred for 6 hours while increasing the temperature. The reaction solution was added to dilute hydrochloric acid, and the organic layer was washed with water and dehydrated over Glauber's salt. Subsequently, the solvent was distilled off. The remaining fraction was recrystallized with chloroform, to obtain 3-fluoro-4-octyloxy-4'-acetylbiphenyl.

reactant | 3-fluoro-4-octyloxybiphenyl | 141 g | FC=1C=C(C=CC1OCCCCCCCC)C1=CC=CC=C1 | C20H25FO
reactant | aluminum chloride | 94 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylchloride | 56 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-octyloxy-4'-acetylbiphenyl | FC=1C=C(C=CC1OCCCCCCCC)C1=CC=C(C=C1)C(C)=O | C22H27FO2
